US07601716B2
7-bromo-1,2,3,4-tetrahydro-[1,8]naphthyridin-4-ol
7-Bromo-2,3-dihydro-1H-[1,8]naphthyridin-4-one (1.459 g) was placed in methanol (25 mL) and sodium borohydride (437 mg, 1.84 eq) was added portionwise over five (5) minutes. The reaction was stirred at room temperature for 15 minutes and then quenched with acetic acid (3 mL). The reaction mixture was concentrated under reduced pressure and the residue was taken up in toluene (100 mL). Silica gel was added and the mixture was concentrated under reduced pressure. Purification by silica gel chromatography using dry loading and a gradient of 0-80% ethyl acetate/hexane as the eluting solvent gave the title compound as a pale yellow solid (78% yield). M.p. 130-131° C., LCMS: m/z=230.71 (M+H+), 1H-NMR (MeOH-d4, 400 MHz) δ 1.80-1.94 (m, 2H), 3.33-3.48 (m, 2H), 4.66 (t, J=4.4 Hz, 1H), 6.66 (d, J=7.6 Hz, 1H), 7.31 (d, J=7.6 Hz, 1H).

reactant | 7-Bromo-2,3-dihydro-1H-[1,8]naphthyridin-4-one | 1.459 g | BrC1=CC=C2C(CCNC2=N1)=O | C8H7BrN2O
reactant | sodium borohydride | 437 mg, 1.84 eq | [BH4-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | 25 mL | CO | CH4O
product | 7-bromo-1,2,3,4-tetrahydro-[1,8]naphthyridin-4-ol | 78% yield | BrC1=CC=C2C(CCNC2=N1)O | C8H9BrN2O
